US07625938B2
tert-Butyl 2-{1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinecarboxylate (29 g, 94 mmol) was treated with 100 ml of TFA-DCM-triisopropylsilane (20:20:1) at room temperature for one hour. The mixture was concentrated under reduced pressure, and the residue was dissolved in water (100 ml), washed with DCM 2×. The DCM was back extracted with water 3×. HCl (5N, 20 ml) was added to the combined water solution and concentrated to ˜50 ml. CH3CN (50 ml) was added and this was lyophilized to yield {1-[4-(ethoxycarbonyl)phenyl]ethyl}-hydrazinium chloride. NMR (500 MHz, acetone-d6) δ: 1.34 (t, J=7.1 Hz, 3H); 1.67 (d, J=6.8 Hz, 3H); 4.33 (q, J=7.1 Hz, 2H), 4.97 (q, J=6.8 Hz, 1H), 7.76 (d, J=8.5 Hz, 2H), 7.97 (d, J=8.5 Hz, 2H). MS C11H16N2O2 Cald: 208.12; Obsd (M+1): 209.19.

reactant | tert-Butyl 2-{1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinecarboxylate | 94 mmol, 29 g | C(C)OC(=O)C1=CC=C(C=C1)C(C)NNC(=O)OC(C)(C)C | C16H24N2O4
reactant | TFA DCM triisopropylsilane | 100 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl.C(C)(C)[SiH](C(C)C)C(C)C
product | {1-[4-(ethoxycarbonyl)phenyl]ethyl}-hydrazinium chloride | [Cl-].C(C)OC(=O)C1=CC=C(C=C1)C(C)[NH2+]N | InChI=1S/C11H16N2O2.ClH/c1-3-15-11(14)10-6-4-9(5-7-10)8(2)13-12;/h4-8,13H,3,12H2,1-2H3;1H
